data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4351,4972,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([CH3:12])[N+:13]([CH3:14])=[C:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:15]([C:16]#[N:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:13]([CH3:14])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,27.86484786187231,-13.876764800394284
813,880,[CH3:13][C-:14]([CH3:15])[NH+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[NH:16][C:14]2([CH3:13])[CH3:15],water,298.15,8.866623417420977,-34.09575887795459
332,361,[CH3:1][O:2][C:3]#[C:4][C:5](=[O:6])[O:7][CH3:8].[CH3:9][O:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[C:19]#[N:20]>>[CH3:1][O:2][C:3]1=[C:4]([C:5](=[O:6])[O:7][CH3:8])[C:16]([C:17]#[N:18])([C:19]#[N:20])[N:14]([CH3:15])[CH:13]1[C:11]([O:10][CH3:9])=[O:12],water,298.15,20.82237711318673,-43.81191008565454
4297,4916,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]#[N:21])[n+:22]1[CH3:23]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]1([C:20]#[N:21])[O:18][C:16](=[O:17])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[N:22]1[CH3:23],water,298.15,28.33746764510533,1.9998619337080128
3244,3666,[CH2:10]=[NH+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH2:10][NH:11][C:12]1([CH3:13])[C:14]([CH3:15])=[O:16],water,298.15,12.903578136826429,-16.793133669075523
5115,5808,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N+:16](=[C:17]([C:18]#[N:19])[C:20]#[N:21])[C-:22]([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:22]([C:23]#[N:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:16]([CH3:15])[C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,32.139282774533065,2.20036707826071
5073,5761,[CH3:10][O:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:23]([CH3:24])([C:25](=[O:26])[O:27][CH3:28])[N:21]([CH3:22])[C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,27.822221878738706,-16.839488936959185
3920,4484,[CH3:9][CH:10]=[NH+:11][C-:12]([C:13]([CH3:14])=[O:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:13]([CH3:14])=[O:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[NH:11][CH:10]1[CH3:9],water,298.15,22.971788626636705,-16.363549445343253
1043,1138,[CH3:19][CH-:20][N+:21]([CH3:22])=[CH:23][C:24]#[N:25].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:23]([C:24]#[N:25])[N:21]([CH3:22])[CH:20]2[CH3:19],water,298.15,11.561080888693215,-43.98288410670365
3129,3521,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[N:10]=[N+:11]([CH3:12])[N-:13][C:14]#[N:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:13]([C:14]#[N:15])[N:11]([CH3:12])[N:10]1[C:8]([CH3:7])=[O:9],water,298.15,25.57122215835836,-13.249341143066273
747,809,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20]([CH3:21])=[O:22])[o+:23]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:19]1([C:20]([CH3:21])=[O:22])[C:17](=[O:18])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[O:23]1,water,298.15,15.33890752124525,-26.02542108356677
1950,2160,[CH3:22][C:23](=[O:24])[c:25]1[o:26][c:27](=[O:28])[c-:29]([CH3:30])[o+:31]1.[F:1][C:2](=[C:3]([c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[F:1][C:2]1([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[C:29]2([CH3:30])[C:27](=[O:28])[O:26][C:25]1([C:23]([CH3:22])=[O:24])[O:31]2,water,298.15,22.44556850159008,-6.003081842726821
